US06838463B2
In 3 ml of tetrahydrofuran was suspended 0.12 g of sodium hydride (60% in oil), to which 0.5 ml of a tetrahydrofuran solution containing 0.22 g of benzyl alcohol was slowly added dropwise with stirring at room temperature. The mixture was stirred at room temperature for 20 minutes and then cooled to 0° C., to which 0.5 ml of a tetrahydrofuran solution containing 0.3 g of 4,6-dichloropyrimidine was slowly added dropwise, followed by stirring at 0° C. for 1.5 hours and then further stirring at room temperature for 4.5 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.43 g of 4-chloro-6-benzyloxypyrimidine.

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | benzyl alcohol | 0.22 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 4,6-dichloropyrimidine | 0.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-benzyloxypyrimidine | 0.43 g | ClC1=NC=NC(=C1)OCC1=CC=CC=C1 | C11H9ClN2O
